US05214181
3-Amino-N-[S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteinyl]propylamine (compound No. 28)
To a stirred solution of S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteine (2.04 g) and N-hydroxysuccinimide (0.563 g) in DMF (5 ml), DCC (1.11 g) dissolved in DMF (5 ml) was added dropwise. The mixture was stirred for 0.5 hr. under ice cooling and for 0.5 hr. at room temperature, and filtered. To the filtrate, 1,3-diaminopropane (1.09 g) dissolved in DMF (30 ml) was added dropwise with stirring. The mixture was stirred for lhr and water was added to the mixture, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated sodium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 1.6 g (69%) of the titled compound.

reactant | S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteine | 2.04 g | C(C1=CC=CC=C1)SC[C@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)C(=O)O | C22H27NO3S2
reactant | N-hydroxysuccinimide | 0.563 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 1.11 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-Amino-N-[S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-L-cysteinyl]propylamine | 1.6 g, 69% | NC(CCN)C([C@@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)CSCC1=CC=CC=C1)=O | C25H35N3O2S2
